* C:\Users\wada\Desktop\reserch\IHP_2024\20240620\TIASubCont.asc
I1 N002 0 AC 1
G1 firstStageOut N002 0 N002 24.82m
R1 N002 0 650
C1 N002 0 16f
R2 0 N002 11.327k
R3 firstStageOut N002 19.2k
R4 firstStageOut 0 870
C2 0 N002 12.95f
C3 firstStageOut 0 2.396f
C4 N001 0 13.44f
C5 SecondStageOut N001 0.7726f
R5 N001 0 9.737k
R6 SecondStageOut 0 267k
R7 SecondStageOut 0 540
G2 SecondStageOut 0 N001 0 25.96m
V1 N001 0 AC 1
I2 N003 0 AC 1
G3 mid N003 0 N003 24.82m
R8 N003 0 650
C6 N003 0 16f
R9 0 N003 11.327k
R10 mid N003 19.2k
R11 mid 0 870
C7 0 N003 12.95f
C8 mid 0 2.396f
C9 mid 0 13.44f
C10 TIAOut mid 0.7726f
R12 mid 0 9.737k
R13 TIAOut 0 267k
R14 TIAOut 0 540
G4 TIAOut 0 mid 0 25.96m
R15 TIAOut 0 1.6k
C11 TIAOut 0 3.75f
R16 SecondStageOut 0 1.6k
C12 SecondStageOut 0 3.75f
I3 N005 0 AC 1
G5 mid2 N005 0 N005 24.82m
R17 N005 0 650
C13 N005 0 16f
R20 mid2 0 870
C16 mid2 0 13.44f
C17 TIAOut2 mid2 0.7726f
R21 mid2 0 9.737k
R22 TIAOut2 0 267k
R23 TIAOut2 0 540
G6 TIAOut2 0 mid2 0 25.96m
R24 N004 0 1.6k
C18 N004 0 3.75f
R18 mid2 N005 19.2k
C14 0 N005 12.95f
C15 mid2 0 2.396f
.ac dec 100 1Meg 1T
* .dc v1 -1 1 1m
.backanno
.end
